US08357694B2
(S)—N-(4-(2-(cyclohexyl(methyl)amino)ethyl)phenyl)-6-(4-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine
This was synthesized by using (S)-4-(6-(4-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, N-methylcyclohexanamine and triethylamine as described in general procedure 2 to afford the desired product. M.p.=160-162° C. 1H NMR (DMSO-d6) 400 MHz δ 10.37 (brs, 1H), 9.68 (s, 1H), 8.32-8.36 (m, 2H), 7.80 (d, J=7.8 Hz, 2H), 7.50-7.52 (m, 2H), 7.26 (d, J=8.2 Hz, 2H), 7.10-7.17 (m, 4H), 4.43 (t, J=6.6 Hz, 1H), 3.27-3.30 (m, 5H), 3.01-3.13 (m, 2H), 2.73 (d, J=4.6 Hz, 3H), 2.03-2.09 (m, 2H), 1.99 (s, 1H), 1.81 (d, J=12.1 Hz, 2H), 1.61 (d, J=12.5 Hz, 1H), 1.40-1.44 (m, 3H), 1.27-1.32 (m, 3H), 1.09-1.17 (m, 2H). LCMS m/e 507 [M+H].

reactant | (S)-4-(6-(4-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C([C@@H](CC2C=N1)C1=CC=C(C=C1)F)C=CC=C3 | C27H24FN3O3S
reactant | N-methylcyclohexanamine | CNC1CCCCC1 | C7H15N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)—N-(4-(2-(cyclohexyl(methyl)amino)ethyl)phenyl)-6-(4-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine | C1(CCCCC1)N(CCC1=CC=C(C=C1)NC1=NC=2C3=C([C@@H](CC2C=N1)C1=CC=C(C=C1)F)C=CC=C3)C | C33H35FN4
